US06951879B2
According to the method in example 31, 6-(4-Bromo-butoxy)-3-(4-bromo-phenyl)-2-methyl-benzo[b]thiophene and N-(2-methoxy-ethyl)-ethylamine were converted to yield {4-[3-(4-Bromo-phenyl)-2-methyl-benzo[b]thiophen-6-yloxy]-butyl}-ethyl-(2-methoxy-ethyl)-amine as yellowish oil, MS: 476 (MH+, 1Br).

reactant | 6-(4-Bromo-butoxy)-3-(4-bromo-phenyl)-2-methyl-benzo[b]thiophene | BrCCCCOC=1C=CC2=C(SC(=C2C2=CC=C(C=C2)Br)C)C1 | C19H18Br2OS
reactant | N-(2-methoxy-ethyl)-ethylamine | COCCNCC | C5H13NO
product | {4-[3-(4-Bromo-phenyl)-2-methyl-benzo[b]thiophen-6-yloxy]-butyl}-ethyl-(2-methoxy-ethyl)-amine | BrC1=CC=C(C=C1)C=1C2=C(SC1C)C=C(C=C2)OCCCCN(CCOC)CC | C24H30BrNO2S
